data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,570,"CC12CCC(O)([O+:1](CCO)[H:2])CC1CCC2=O.O=C(O)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7260,"C[N+](C)(C)C[CH:1]([CH:2](C)[O-:3])[CH:4]=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,359,"CC(C)(C)[O-:1].CC1(C)OCC(O)C(C2OC2C[O:2][H:3])O1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2703,"C[N+:1](C)=[CH:2][SH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7093,"C1CCOC1.C1COCCO1.OCCOC(C1=C(Cl)N=CS1)[OH+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9607,"CC(CSC1=CC=CC=C1)[O-:1].CC[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6583,"CC1CCC(C(C)C)C(C=CC(C)(C(C)C)[C:1](OP(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)=[O:2])C1.[N-]=[N+]=[N-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1208,"CC=CC(Br)C(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6413,"C1=CC=CC=C1.CC(C)(O)C(C)(C)O.CC(O)CO.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.O=[N+]([O-])C1=CC=C(C=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1706,"C1=CC=C(C[O:1][H:2])C=C1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4056,"CC(C)[CH2:1][Br:2].COC(=O)[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10278,"CN(C)[S+:1](C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,5778,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3394,"CCC[NH:1]CCC.COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1801,"C=[O:1].C[Si:2](C)(C)F|(1, 2)"
train,pmechdb_split_0,0,3240,"CC(C)NC(C)C.CC(C)[N](C(C)C)[Li:1].[Li][O]C(C1=CC=CC=C1)C(C)N(C)C(CC)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,7462,"CC1CC[O:1][C:2]1(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1898,"CC(=O)OC(C)([O-])[O+:1](CCC(C)OS(=O)(=O)C(F)(F)F)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8667,"CO[C:1]1=[CH:2][CH:3]=[CH:4]C([N+](=O)[O-])=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,515,"CC(N)=[O:1].CS(=O)(=O)O[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,7241,"CC1(C)CCC(=[O:1])C=C1O.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8514,"C[P:1](C)(C)([Mg][Br])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,640,"C[SH:1].[OH:2][Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4000,"CCO[Si:1](C)(C)C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5976,"C=CC[NH+:1]=[CH:2]C(O)CCC1=CC=CC=C1.C=CC[NH2+][B-:3](O)(O)[CH:4]=CC1=CC=CC=C1.O|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4611,"O=C(CCCOC1=CC=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,352,"CCOC(OCC)[CH2:1][Br:2].COC1=CC(C(COCC2=CC=CC=C2)[NH2:3])=C2OCOC2=C1C.O=C([O-])[O][K].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1055,"COC(=O)C12CC(=O)[N:1](CCC3=CC(OC)=C(OC)C=C3)[C:2]1=[CH:3][CH:4]1C(C2)OC(C)(C)[OH+:5]1.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7401,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5C2=CC=CC=C2)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6761,"CC(C)[C:1]1([H:2])C2=C(C=CC([N+](=O)[O-])=C2)C=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6355,"C[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5559,"CC1(C)CCCC2=C(C(N)=[O+:1][H:2])C=CC=C21.O=P(O)(O)OP(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7549,"CS(=O)(=O)[O:1][CH:2]1CCCC2CCCC[CH:3]1[CH:4]2[O-:5].[AlH3].[Li+]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5809,"COC(C)=[O:1].[H:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3155,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=CC2=C(C=C1)C1CCC3(C)C(=[O+:1][H:2])C4CCC3(C4)C1CC2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1315,"CC1=C[C:1](Br)([H:2])[C+:3](C)O1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1418,"CCN(CC)C(C)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4209,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C1CCC[C:1]2=[O+:2]CCO.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8682,"COC(=O)C1C(OC2=CC=C([CH:1]=[O:2])C=C2)CCN1C(=O)OC(C)(C)C.C[OH+][Na].O=[N+]([O-])[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5597,"CC(C)(C)[CH:1]1C[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3066,"CS(=O)(=O)OCC(C[N+:1]#[C:2]C)[O:3][B-](F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7997,"COC=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,5682,"C[O+:1]=[CH:2][NH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1344,"CO[C+:1]1C(Br)=C2C=CC=CC2=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2772,"CC(C)C.CC[Si](CC)(CC)[C-:1]1SCCCS1.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,4076,"C[NH:1][S:2](C)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1021,"C1=CC=C([CH2:1][Cl:2])C=C1.C1C[NH:3]CCO1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,337,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C(CCCC=C(F)F)[O:2][H:3].OCC1=CC2=C(C=CC=C2)C=C1|(1, 3);((3, 2), 2)"
